US20010027196A1
2-Amino-4-furan-2-yl-6-[2-(pyridin-2-ylamino)-ethylamino]-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile and N1-pyridin-2-yl-ethane-1,2-diamine in DME. ES-MS m/e (%): 322 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | N1-pyridin-2-yl-ethane-1,2-diamine | N1=C(C=CC=C1)NCCN | C7H11N3
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-furan-2-yl-6-[2-(pyridin-2-ylamino)-ethylamino]-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)NCCNC1=NC=CC=C1 | C16H15N7O
